US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide (3.0 g, 8.1 mmol), 4-(hydroxymethyl)phenylboronic acid (1.5 g, 9.7 mmol), 1 M K2CO3 (16 mL, 16 mmol), Pd-FibreCat 1007 (640 mg), and N,N-dimethylformamide (80 mL) were combined. The mixture was heated at 80° C. for 3 h. The volatiles were removed in vacuo and residue was redissolved in dichloromethane (100 mL). The organics were washed with 1N HCl (100 mL×2), then dried over Na2SO4 and evaporated. The crude product was purified by chromatography on silica gel to afford 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide (1.9 g, 59%). ESI-MS m/z calc. 401.5, found 402.5 (M+1)+; retention time 3.18 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide | 8.1 mmol, 3.0 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)Br | C18H16BrNO3
reactant | 4-(hydroxymethyl)phenylboronic acid | 9.7 mmol, 1.5 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 16 mmol, 1 M, 16 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | 1.9 g, 59% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CO | C25H23NO4
